US04999359
4-(pyrrolidin-1-yl)methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine
3.63 g (16.48 mmoles) of 4-(pyrrolidin-1-yl)carbonyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine were added portionwise, at room temperature, under nitrogen atmosphere, to a slurry of 1.00 g (26.32 mmoles) of lithium aluminium hydride in 180 ml of dry dioxane.

reactant | 4-(pyrrolidin-1-yl)carbonyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine | 16.48 mmoles, 3.63 g | N1(CCCC1)C(=O)C1NCCC2=C1N=CN2 | C11H16N4O
reactant | lithium aluminium hydride | 26.32 mmoles, 1.00 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | dioxane | 180 ml | O1CCOCC1 | C4H8O2
product | 4-(pyrrolidin-1-yl)methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine | N1(CCCC1)CC1NCCC2=C1N=CN2 | C11H18N4
